US07112593B2
4-Ethynyl-1-azaadamantan-4-ol
To a solution of 0.2 ml of trimethylsilylacetylene in 2 ml of tetrahydrofuran was added dropwise 0.64 ml of a 1.56 mol hexane solution of n-butyllithium in a dry ice-acetone bath. After stirring for 30 minutes, a solution of 50 mg of 1-azaadamantane-4-one in 1 ml of tetrahydrofuran was added dropwise to the mixture. After further stirring for 30 minutes, 1 ml of methanol was added to the mixture and the temperature was elevated to room temperature. The solvent was removed and water was added to the resulting solid. Crystals that remained were collected by filtration, to give 17 mg of the title compound.

reactant | trimethylsilylacetylene | 0.2 ml | C[Si](C)(C)C#C | C5H10Si
reactant | hexane | 1.56 mol | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-azaadamantane-4-one | 50 mg | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 4-Ethynyl-1-azaadamantan-4-ol | 17 mg | C(#C)C1(C2CN3CC(CC1C3)C2)O | C11H15NO
